US04518804
(A) Preparation of 2,5-dichloro-4-(1,1,2,2-tetrafluoroethoxy)benzenamine
A mixture of 100 ml dimethylformamide (DMF), 75 g (0.035 mole) 4-amino-2,5-dichlorophenol, hydrochloride, and 3.0 g (0.05 mole) KOH (pellets ground to powder) was placed in a 500 ml 3-necked round bottom flask fitted with a mechanical stirrer, thermometer and reflux condenser and was stirred for about 1 hour. It was then heated to 85° C. with stirring and 6.0 g (0.06 mole) of tetrafluoroethylene was bubbled in while heating at 85°-90° C. The addition took about 10 minutes. The reactor and contents were cooled in an ice water bath and 200 ml of water were added. The product was extracted with 200 ml methylene chloride and then again with 100 ml methylene chloride. The extracts were combined and the solvents removed by vacuum distillation. A residue (7 g) remained.

reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | 4-amino-2,5-dichlorophenol, hydrochloride | 0.035 mole, 75 g | Cl.NC1=CC(=C(C=C1Cl)O)Cl
reactant | KOH | 0.05 mole, 3.0 g | [OH-].[K+]
reactant | tetrafluoroethylene | 0.06 mole, 6.0 g | FC(=C(F)F)F | C2F4
solvent | water | 200 ml | O | H2O
product | 2,5-dichloro-4-(1,1,2,2-tetrafluoroethoxy)benzenamine | ClC1=C(C=C(C(=C1)OC(C(F)F)(F)F)Cl)N | C8H5Cl2F4NO
